US06407120B1
A 250 mL Parr shaker bottle was charged with 4-nitro-N,N-diethyl-benzenesulfonamide (617 mg, 2.39 mmol), ethyl acetate (50 mL), and 10% palladium on activated carbon (100 mg). The bottle was place on a Parr shaker apparatus and charged with hydrogen to a pressure of 52 psi. The reaction mixure was shaken for two hours, filtered through celite, and concentrated to provide 4-Amino-N,N-diethyl-benzenesulfonamide as a green solid (581 mg).

reactant | 4-nitro-N,N-diethyl-benzenesulfonamide | 2.39 mmol, 617 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N(CC)CC | C10H14N2O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-Amino-N,N-diethyl-benzenesulfonamide | 581 mg | NC1=CC=C(C=C1)S(=O)(=O)N(CC)CC | C10H16N2O2S
